US08492582B2
Trifluoroacetic acid (2.0 mL) was added to a methylene chloride (2.0 mL) solution of the obtained tert-butyl 4-(3-((tert-butoxycarbonyl)(ethyl)amino)phenyl)-2-(5-phenylpyridine-3-carboxamido)benzoate (0.15 g) at room temperature, followed by stirring at the same temperature for 7 hours and 30 minutes. The solvent was evaporated under reduced pressure, and methanol (3 mL) and dioxane (1 mL) were added to the obtained residue. The pH was adjusted to 13.0 with a 2 mol/L aqueous solution of sodium hydroxide, then to a pH of 4.6 with a 10% aqueous solution of citric acid. The solid substance was collected by filtration to obtain 0.10 g of 4-(3-(ethylamino)phenyl)-2-(5-phenylpyridine-3-carboxamido)benzoic acid as a light yellow solid.

reactant | Trifluoroacetic acid | 2.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 4-(3-((tert-butoxycarbonyl)(ethyl)amino)phenyl)-2-(5-phenylpyridine-3-carboxamido)benzoate | 0.15 g | C(C)(C)(C)OC(=O)N(C=1C=C(C=CC1)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)NC(=O)C=1C=NC=C(C1)C1=CC=CC=C1)CC | C36H39N3O5
solvent | methylene chloride | 2.0 mL | C(Cl)Cl | CH2Cl2
product | 4-(3-(ethylamino)phenyl)-2-(5-phenylpyridine-3-carboxamido)benzoic acid | 0.10 g | C(C)NC=1C=C(C=CC1)C1=CC(=C(C(=O)O)C=C1)NC(=O)C=1C=NC=C(C1)C1=CC=CC=C1 | C27H23N3O3
